### PR TITLE
[Merged by Bors] - feat: results about `Function.{curry,uncurry}`, and `Matrix.vec_single`

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Function/Basic.lean [hunk 1]
```diff
@@ -807,9 +807,40 @@ theorem comp_right {α β γ δ : Sort*} {f : α → β} {g : α → γ} (h : Fa
...
+  LeftInverse.injective curry_uncurry
+
+theorem curry_injective {α β γ} : Function.Injective (curry : (α × β → γ) → _) :=
+  LeftInverse.injective uncurry_curry
+
+theorem uncurry_flip {α β γ} (f : α → β → γ) : uncurry (flip f) = uncurry f ∘ Prod.swap :=
+  rfl
+
+theorem flip_curry {α β γ} (f : α × β → γ) : flip (curry f) = curry (f ∘ Prod.swap) :=
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Logic/Function/Basic.lean:825]: simp?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Logic/Function/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Logic/Function/Basic.lean:825]: I'm not sure introducing `comp` is an improvement, or which direction this should simp in.

File: Mathlib/LinearAlgebra/Matrix/Vec.lean [hunk 2]
```diff
@@ -56,6 +56,9 @@ theorem vec_map (A : Matrix m n R) (f : R → S) : vec (A.map f) = f ∘ vec A :
 theorem vec_zero [Zero R] : vec (0 : Matrix m n R) = 0 :=
   rfl
 
+@[simp]
+theorem vec_eq_zero_iff [Zero R] {A : Matrix m n R} : vec A = 0 ↔ A = 0 := Iff.symm vec_inj.symm
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]: lol this is in my [PR](https://github.com/leanprover-community/mathlib4/pull/29138) too :eyes:, with this proof:
```suggestion
theorem vec_eq_zero_iff [Zero R] {A : Matrix m n R} : vec A = 0 ↔ A = 0 := vec_inj (B := 0)
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
